US04442300
(3a) 4-Benzyloxybenzoic acid
A mixture of 132.5 g ethyl-4-hydroxybenzoate, 135 g K2CO3 and 110 ml benzyl chloride in 900 ml of ethanol was refluxed under stirring for 18 hrs. The mixture was warm filtered, and the filtrate evaporated. The residue was dissolved in 700 ml of water, 98 g of KOH was added, whereafter the mixture was refluxed with stirring for 2 hrs, or until a clear solution was obtained. The pH of the solution was adjusted to pH 1 with conc. HCl, and the crystalline material formed was filtered off. The identity of the product was confirmed with NMR.

reactant | ethyl-4-hydroxybenzoate | 132.5 g | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | K2CO3 | 135 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloride | 110 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | HCl | Cl | ClH
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 4-Benzyloxybenzoic acid | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
